US04645765
A solution of 4-formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (140 mg) in methanol (10 ml) was subjected to catalytic reduction for 120 minutes using 10% palladium on carbon in hydrogen gas under atmospheric pressure at room temperature. The reaction mixture was filtered and the filtrate was evaporated to dryness in vacuo to give 6,9-dihydroxy-4-hydroxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (105 mg).

reactant | 4-formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 140 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3NC3C1(O2)O)C=O)O)=O | C14H15N3O6
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
solvent | hydrogen | [H][H] | H2
product | 6,9-dihydroxy-4-hydroxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 105 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3NC3C1(O2)O)CO)O)=O | C14H17N3O6
